US07105682B2
To a mixture of 2-chloronicotinic acid (4 g) and 4-chloroanaline (3.2 g) and DIEA (6 ml) in CH2Cl2 (200 ml) was added EDC (6 g) and HOBt (3.3 g). The reaction was stirred at RT overnight and washed with 2 N NaOH (100 ml), H2O (150 ml) and brine (100 ml). The organic layer was dried over Na2SO4 and evaporated to give (2-chloro(3-pyridyl))-N-(4-chlorophenyl)carboxamide.

reactant | 2-chloronicotinic acid | 4 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | DIEA | 6 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 6 g
reactant | HOBt | 3.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | (2-chloro(3-pyridyl))-N-(4-chlorophenyl)carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)Cl | C12H8Cl2N2O
